US04119710
1-(4'-Amino-3'-chloro-5'-trifluoromethyl-phenyl)-2-tert.pentylamino-ethanol hydrochloride by method B
0.37 gm of 1-(4'-amino-3'-trifluoromethyl-phenyl)-2-tert.pentylamino-ethanol hydrobromide and 0.2 ml of pyridine were dissolved in 30 ml of tetrahydrofuran, and the solution was cooled to 0° C. 0.3 gm of iodobenzene dichloride was added, the mixture was held for 2 hours at 0° C., and 0.1 gm of iodobenzene dichloride was again added. After standing for 20 hours at about 4° C., the solution was evaporated, distributed between ethyl acetate and water, the aqueous phase was made alkaline with 2N ammonia, and the solution was again extracted with ethyl acetate. The organic phase was washed with water, dried and a few drops of isopropanolic 4N hydrochloric acid were added. The precipitated hydrochloride of the above-mentioned compound was suction-filtered off and washed with ether. M.p. 176°-178° C. (decomp.).

reactant | 1-(4'-amino-3'-trifluoromethyl-phenyl)-2-tert.pentylamino-ethanol hydrobromide | 0.37 gm | Br.NC1=C(C=C(C=C1)C(CNC(C)(C)CC)O)C(F)(F)F
reactant | pyridine | 0.2 ml | N1=CC=CC=C1 | C5H5N
reactant | iodobenzene dichloride | 0.3 gm | [Cl-].[Cl-].IC1=CC=CC=C1
reactant | iodobenzene dichloride | 0.1 gm | [Cl-].[Cl-].IC1=CC=CC=C1
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-(4'-Amino-3'-chloro-5'-trifluoromethyl-phenyl)-2-tert.pentylamino-ethanol hydrochloride | Cl.NC1=C(C=C(C=C1C(F)(F)F)C(CNC(C)(C)CC)O)Cl | InChI=1S/C14H20ClF3N2O.ClH/c1-4-13(2,3)20-7-11(21)8-5-9(14(16,17)18)12(19)10(15)6-8;/h5-6,11,20-21H,4,7,19H2,1-3H3;1H
